US07459554B2
To a solution of toluene-4-sulfonic acid 4-[8-amino-1-(3-benzyloxy-phenyl)-imidazo[1,5-a]pyrazin-3-yl]-cyclohexylmethyl ester (29 mg, 0.05 mmol) in DMF (0.5 ml) was added aniline (23 μl, 0.25 mmol). The reaction was irradiated in the microwave (200 W, 150° C., 10 m), then evaporated to dryness. The crude reaction product was dissolved in MeOH (2 ml) and added to a pre-wetted MCX cartridge (6 ml/500 mg). The cartridge was washed with MeOH (10 ml) and the product was then eluted using 1% NH3 in MeOH (15 ml). The product was further purified using mass-directed HPLC, to give 1-(3-benzyloxy-phenyl)-3-(4-phenylaminomethyl-cyclohexyl)-imidazo[1,5-a]pyrazin-8-ylamine formic acid salt (7.8 mg, 31%) as an off-white solid: 1H NMR (400 MHz, CD3OD) δ 8.25 (s, 1H), 7.60 (d, 1H, J=5.5 Hz), 7.48-7.41 (m, 3H), 7.36 (t, 2H, J=7.3 Hz), 7.33-7.27 (m, 1H), 7.25-7.22 (m, 1H), 7.18 (d, 1H, J=7.4 Hz), 7.13 (dd, 1H, J=5.5 Hz, 2.3 Hz), 7.08 (t, 2H, J=7.8 Hz), 6.97 (d, 1H, J=5.5 Hz), 6.63 (d, 2H, J=7.4 Hz), 6.58 (t, 1H, J=7.4 Hz), 5.16 (s, 2H), 3.12 (m, 1H), 3.00 (d, 2H, J=6.7 Hz), 2.06 (br. d, 4H, J=11.7 Hz), 1.88-1.70 (m, 3H), 1.30-1.22 (m, 2H), 3H not observed (NH2 and NH); MS (ES+) m/z 504.24 [MH+] at Rt 3.47 min.

reactant | toluene-4-sulfonic acid 4-[8-amino-1-(3-benzyloxy-phenyl)-imidazo[1,5-a]pyrazin-3-yl]-cyclohexylmethyl ester | 0.05 mmol, 29 mg | NC=1C=2N(C=CN1)C(=NC2C2=CC(=CC=C2)OCC2=CC=CC=C2)C2CCC(CC2)COS(=O)(=O)C2=CC=C(C=C2)C | C33H34N4O4S
reactant | aniline | 0.25 mmol, 23 μl | NC1=CC=CC=C1 | C6H7N
reactant | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | MeOH | 2 ml | CO | CH4O
product | 1-(3-benzyloxy-phenyl)-3-(4-phenylaminomethyl-cyclohexyl)-imidazo[1,5-a]pyrazin-8-ylamine formic acid salt | 7.8 mg, 31% | C(=O)O.C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1N=C(N2C1C(=NC=C2)N)C2CCC(CC2)CNC2=CC=CC=C2 | InChI=1S/C32H33N5O.CH2O2/c33-31-30-29(26-10-7-13-28(20-26)38-22-24-8-3-1-4-9-24)36-32(37(30)19-18-34-31)25-16-14-23(15-17-25)21-35-27-11-5-2-6-12-27;2-1-3/h1-13,18-20,23,25,35H,14-17,21-22H2,(H2,33,34);1H,(H,2,3)
